US08623880B2
5-Amino-1,3-dimethylpyrimidine-2,4(1H,3H)-dione:
To a stirred solution of 1,3-dimethyl-5-nitropyrimidine-2,4(1H,3H)-dione (2.0 g, 10.802 mmol) in methanol (200 mL), 10% Pd—C (0.500 g) was added under hydrogen atmosphere and the reaction mixture was stirred at room temperature for 2 h. Reaction mixture was filtered through a celite bed and washed with methanol. The filtrate was collected and concentrated under reduced pressure to give 1.5 g of the product.

reactant | 1,3-dimethyl-5-nitropyrimidine-2,4(1H,3H)-dione | 10.802 mmol, 2.0 g | CN1C(N(C(C(=C1)[N+](=O)[O-])=O)C)=O | C6H7N3O4
solvent | methanol | 200 mL | CO | CH4O
catalyst | Pd—C | 0.500 g | [Pd] | Pd
product | 5-Amino-1,3-dimethylpyrimidine-2,4(1H,3H)-dione | 1.5 g | NC=1C(N(C(N(C1)C)=O)C)=O | C6H9N3O2
